2175-01-17 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - MAPs dropped to low 50s during cleaning, pt was having large watery
   bowel movement. Dopa found to be disconnected. MAPs improved to above
   60s after Dopa resumed.
   - PPM placed, pt had brief episode of hypotension to 70s systolic when
   dopa interrupted, improved back to 110s systolic on Dopa 5
   - Held off on diuresis given continued pressor requirement
   - Cr elevated this admission to 3.2, baseline 2.2 previously ([**2167**]).
   Urine lytes pending
   - Pt failed two attempts to switch to PSV due to hypotension, with MAPS
   dropping over minutes, once from 67->60, and again 73->63. Improved
   with increased Dopa. Does ok from respiratory standpoint with switch.
   Will try again this am, increasing Dopa with trial.
   - RSBI was 107
   - ECHO ordered for the am
   Allergies:
   Penicillins
   Unknown; Rash;
   Vasotec (Oral) (Enalapril Maleate)
   angioedema of m
   Last dose of Antibiotics:
   Vancomycin - [**2175-1-16**] 09:00 AM
   Clindamycin - [**2175-1-17**] 06:00 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-1-16**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-1-17**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 80 (31 - 80) bpm
   BP: 104/57(72) {73/41(51) - 132/71(91)} mmHg
   RR: 12 (10 - 19) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,050 mL
                                                                    238 mL
   PO:
             TF:
   IVF:
                                                                  1,010 mL
                                                                    238 mL
   Blood products:
   Total out:
                                                                    610 mL
                                                                    270 mL
   Urine:
                                                                    610 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    440 mL
                                                                    -32 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 501) mL
   RR (Set): 12
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 102
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.42/39/310/26/1
   Ve: 7.6 L/min
   PaO2 / FiO2: 775
   Physical Examination
   Gen: WDWN elderly male, intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP to earlobe
   CV: RR, II/VI SM LLSB, No thrills, lifts.
   Chest: No chest wall deformities, scoliosis or kyphosis. Clear
   anteriorly, decreased BS L base, + bibasilar crackles
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   Ext: No femoral bruits. 2+ LE edema b/l
   Labs / Radiology
   142 K/uL
   12.4 g/dL
   155 mg/dL
   3.2 mg/dL
   26 mEq/L
   4.9 mEq/L
   94 mg/dL
   101 mEq/L
   136 mEq/L
   37.0 %
   8.2 K/uL
        [image002.jpg]
                             [**2175-1-16**]  09:14 AM
                             [**2175-1-16**]  07:34 PM
                             [**2175-1-17**]  05:12 AM
   WBC
   8.2
   Hct
   37.0
   Plt
   142
   Cr
   3.2
   3.2
   TropT
   0.11
   TCO2
   26
   Glucose
   137
   155
   Other labs: CK / CKMB / Troponin-T:69//0.11, Ca++:9.6 mg/dL, Mg++:2.4
   mg/dL, PO4:5.1 mg/dL
   Assessment and Plan
   Patient is a 86y/o M with a PMH of biventricular CHF with EF 15%, s/p
   CABG [**2167**] presenting with complete heart block.
   .
   #. Complete Heart Block -  The patient has a history of brady/tachy
   physiology per outpatient cardiologist most recently in slow atrial
   flutter at 3:1 AV block. He has previously declined pacer placement.
   Now presenting with CHB, most likely representing progression of his
   underlying conduction disease.
   - Permanent pacer placed yesterday
   - Continues to require low dose dopamine for BP support
   - Continue supportive management with intubation, BP support
   .
   #. Severe Biventricular Heart Failure - per report EF 15-20% with
   moderate MR and AS. Per outpatient cardiologist reports the patient has
   had progressive volume overload with ascities, pleural effusion and
   distended neck veins despite increase in lasix
   - repeat TTE today
   - Pt with evidence of volume overload on exam with pleural effusions,
   LE edema and elevated JVP
   - Will stabalize hemodynamic with pacer and then restart diuresis (60mg
   lasix + metolazone QOD outpatient regimen) given volume overload will
   need IV diuresis
   - Holding coreg, for now given bradycardia/hypotension, restart post
   pacemaker placement
   .
   #. Pleural Effusion - no clear evidence of PNA on CXR, likely pulmonary
   edema related to severe CHF, no elevated WBC or fever, recently treated
   for PNA with levaquin/azithro
   - Will diurese when hemodynamically stable
   - Follow CXR for improvement of effusion, evidence of PNA
   .
   #. Hyperkalemia - resolved
   .
   #. CAD - s/p CABG (4Vd in [**2167**]) - continue aspirin 81mg daily, continue
   lipitor 10mg daily
   - trend biomarkers
   .
   #. CKD - Cr 3.2 on admission, history of CKD with Cr ranging from 2.5-3
   - continue to trend
   - renally dose meds
   .
   #. HTN - holding coreg given hypotension/bradycardia
   .
   #. Hyperlipidemia - continue statin
   .
   #. FEN - NPO for now
   .
   #. Access: L art line, PIV X3
 if unable to wean dopa, consider CVL
   placement
   .
   #. PPx:  Heparin SC, PPI, bowel regimen
   .
   #. Code:  Full
   .
   #. Dispo:  Pending clinical improvement
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-1-16**] 08:00 AM
   18 Gauge - [**2175-1-16**] 08:03 AM
   20 Gauge - [**2175-1-16**] 08:04 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer:  PPI
   VAP:  bundle
   Comments:
   Communication:  Comments:
   Code status: Full
   Disposition: ICU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   Nothing to add, agree with above
   Physical Examination
   Nothing to add, agree with above
   Medical Decision Making
   Nothing to add, agree with above
   Total time spent on patient care: 45 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 4646**] [**Name (NI) **]  on:[**2175-1-17**]
   19:51 ------

2175-01-18 06:19:00 Physician Resident Progress Note
TITLE:
   CCU Resident Progress Note
   Chief Complaint: complete heart block now s/p pacemaker placement
   24 Hour Events:
   Echo - IMPRESSION: Asymmetric septal hypertrophy with mild resting left
   ventricular outflow tract gradient. Severe regional systolic
   dysfunction with akinesis of the inferior and inferolateral walls and
   hypokinesis of the septum. Marked right ventricular dilation and
   dysfunction. Moderate pulmonary hypertension.
   .
   - patient off sedation not responding to commands so probably not okay
   to extubate today
   - weaned off dopamine
   - urine culture no growth final
   - put patient in for sputum culture as patient with yellow sputum mixed
   with blood
   - extubated patient with great success
   - placed speech and swallow eval for today, remains NPO otherwise
   Allergies:
   Penicillins
   Unknown; Rash;
   Vasotec (Oral) (Enalapril Maleate)
   angioedema of m
   Last dose of Antibiotics:
   Vancomycin - [**2175-1-16**] 09:00 AM
   Clindamycin - [**2175-1-17**] 10:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2175-1-18**] 12:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: none
   Flowsheet Data as of  [**2175-1-18**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 80) bpm
   BP: 142/63(87) {108/51(68) - 145/70(92)} mmHg
   RR: 25 (16 - 28) insp/min
   SpO2: 100%
   Heart rhythm: V Paced
                  Total In:
                                                                    690 mL
                  PO:
                  TF:
   IVF:
                                                                    690 mL
   Blood products:
   Total out:
                                                                  1,106 mL
                                                                    440 mL
   Urine:
                                                                  1,106 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -416 mL
                                                                   -440 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 378 (353 - 478) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 35%
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: 7.42/39/171/23/1
   Ve: 11.3 L/min
   PaO2 / FiO2: 489
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous at bilateral bases.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   128 K/uL
   10.9 g/dL
   97 mg/dL
   2.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   91 mg/dL
   105 mEq/L
   141 mEq/L
   32.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2175-1-16**]  09:14 AM
                             [**2175-1-16**]  07:34 PM
                             [**2175-1-17**]  05:12 AM
                             [**2175-1-17**]  08:27 AM
                             [**2175-1-17**]  10:01 AM
                             [**2175-1-17**]  11:14 AM
                             [**2175-1-18**]  04:03 AM
                             [**2175-1-18**]  04:16 AM
   WBC
   8.2
   7.6
   7.4
   Hct
   37.0
   35.9
   32.5
   Plt
   142
   152
   128
   Cr
   3.2
   3.2
   2.7
   TropT
   0.11
   0.09
   TCO2
   26
   26
   25
   26
   Glucose
   137
   155
   97
   Other labs: PT / PTT / INR:16.3/44.5/1.5, CK / CKMB /
   Troponin-T:61//0.09, ALT / AST:26/26, Alk Phos / T Bili:112/1.6, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:198 IU/L, Ca++:9.1 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   Patient is a 86y/o M with a PMH of biventricular CHF with EF 15%, s/p
   CABG [**2167**] presenting with complete heart block.
   .
   #. Complete Heart Block -  The patient has a history of brady/tachy
   physiology per outpatient cardiologist most recently in slow atrial
   flutter at 3:1 AV block. He has previously declined pacer placement.
   Now presenting with CHB, most likely representing progression of his
   underlying conduction disease.  Patient is s/p permanent pacemaker now
   off all pressor support.  PPM set at a rate of 60 currently.
   - Day [**12-27**] clindamycin
   .
   # Respiratory failure now resolved
 patient was intubated in the
   setting of complete heart block episode.  Major initial barrio to
   extubation was patient
s mental status.  ? PNA given increased sputum
   production.
   - Sputum culture today.
   - f/u PA/Lat CXR
   .
   #. Acute on chronic Severe Biventricular Systolic Heart Failure - per
   report EF 15-20% with moderate MR and AS. Per outpatient cardiologist
   reports the patient has had progressive volume overload with ascities,
   pleural effusion and distended neck veins despite increase in lasix.
   Echo repeated on admission demonstrates asymmetric septal hypertrophy
   with mild resting left ventricular outflow tract gradient. Severe
   regional systolic dysfunction with akinesis of the inferior and
   inferolateral walls and hypokinesis of the septum. Marked right
   ventricular dilation and dysfunction. Moderate pulmonary hypertension.
   Patient still with evidence of volume overload on exam with pleural
   effusions, elevated JVP.
   - now that extubated will try for gentle diuresis with goal -500 cc per
   day however will be careful given severe dysfunction of right ventricle
   making patient very preload dependent.  Given 20mg IV lasix this AM.
   Follow Is/Os.
   - Will need to restart diuresis (60mg lasix + metolazone QOD outpatient
   regimen) on discharge
   .
   #. Pleural Effusion - no clear evidence of PNA on CXR, likely pulmonary
   edema related to severe CHF, no elevated WBC or fever, recently treated
   for PNA with levaquin/azithromycin.  As patient now extubated will
   check PA/Lateral to assess.
   -          f/u chest x-ray
   -          gentle diuesis as above
   .
   #. CAD - s/p CABG (4Vd in [**2167**]) - continue aspirin 81mg daily, continue
   lipitor 10mg daily. Troponins on admission mildly elevated but flat in
   the setting of renal failure.
   .
   #. CKD - Cr 3.2 on admission, history of CKD with Cr ranging from
   2.5-3. Cr improved today to 2.7.
   - continue to trend
   - renally dose meds
   .
   # Dementia- patient with underlying dementia as per his son.
   -          avoid benzodiazepines
   -          avoid anti-cholinergic medications
   -          Did well with Haldol 0.5mg yesterday.  Continue PRN.
   .
   # Hematuria: Pt with pain at site.  Foley irrigates ok.
   - Monitor foley output.  Bladder scan.
   .
   #. HTN
 patient now with hypertension to 140s after being extubated
   - restart coreg today at half outpatient dose.
   .
   #. Hyperlipidemia - continue statin
   .
   #. FEN
 speech and swallow consult in place, would advance diet as per
   recommendations
   - NG tube if fails speech and swallow.
   .
   #. Access: L art line
 d/c, PIV X3
   .
   #. PPx:  Heparin SC, PPI, bowel regimen
   .
   #. Code:  Full
   .
   #. Dispo:  consider calling out to floor today
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2175-1-16**] 08:00 AM
   20 Gauge - [**2175-1-16**] 08:00 AM
   18 Gauge - [**2175-1-16**] 08:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   History
   nothing to add, agree with note of CCU team
   Physical Examination
   nothing to add, agree with note of CCU team
   Medical Decision Making
   nothing to add, agree with note of CCU team
   ------ Protected Section Addendum Entered By:[**Name (NI) 4646**] [**Name (NI) **]  on:[**2175-1-18**]
   09:00 ------

2175-01-19 06:07:00 Physician Resident Progress Note
TITLE: CCU Progress Note
   Chief Complaint:
   24 Hour Events:
   - Pt mental status improved progressively throughout the day. A&O and
   conversant by the PM
   - DCed sedatives. Doing well with low dose haloperidol for now
   - Passed S&S for ground solids and nectar thickened liquids. Tolerating
   POs well
   - Switched to PO meds
   - Pt continues to complain about foley. Will pull once no longer active
   hematuria
   - Sent sputum culture
   - Examined oropharynx for ongoing cough. No obvious lesions. Started
   nasal saline for post nasal drip
   - Pt with ongoing pruritis. Started sarna lotion
   - Pt developed hives in the PM to unclear cause but appears almost like
   contact dermatitis on back. Holding off on antihistamines for now for
   anticholinergic effect. Will continue to follow. Added sarna lotion.
   Ordering bleach free sheets.
   - Started on carvediolol 6.25mg PO BID
   - PM HCT stable. Repleted K in the PM
   - DCed Aline
   Allergies:
   Penicillins
   Unknown; Rash;
   Vasotec (Oral) (Enalapril Maleate)
   angioedema of m
   Last dose of Antibiotics:
   Vancomycin - [**2175-1-16**] 09:00 AM
   Clindamycin - [**2175-1-18**] 10:30 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2175-1-18**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2175-1-19**] 12:00 AM
   Haloperidol (Haldol) - [**2175-1-19**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2175-1-19**] 06:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.6
C (97.8
   HR: 60 (60 - 61) bpm
   BP: 122/64(76) {122/64(76) - 125/73(85)} mmHg
   RR: 17 (10 - 25) insp/min
   SpO2: 98%
   Heart rhythm: V Paced
                  Total In:
                                                                    630 mL
                                                                    120 mL
   PO:
                                                                    480 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,875 mL
                                                                    231 mL
   Urine:
                                                                  1,875 mL
                                                                    231 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,245 mL
                                                                   -111 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous at bilateral bases.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows commands, Alert and agitated
   Labs / Radiology
   129 K/uL
   10.4 g/dL
   137 mg/dL
   2.5 mg/dL
   27 mEq/L
   3.8 mEq/L
   82 mg/dL
   104 mEq/L
   142 mEq/L
   30.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2175-1-16**]  09:14 AM
                             [**2175-1-16**]  07:34 PM
                             [**2175-1-17**]  05:12 AM
                             [**2175-1-17**]  08:27 AM
                             [**2175-1-17**]  10:01 AM
                             [**2175-1-17**]  11:14 AM
                             [**2175-1-18**]  04:03 AM
                             [**2175-1-18**]  04:16 AM
                             [**2175-1-18**]  04:05 PM
                             [**2175-1-19**]  04:24 AM
   WBC
   8.2
   7.6
   7.4
   6.1
   Hct
   37.0
   35.9
   32.5
   31.4
   30.7
   Plt
   142
   152
   128
   129
   Cr
   3.2
   3.2
   2.7
   2.8
   2.5
   TropT
   0.11
   0.09
   0.09
   TCO2
   26
   26
   25
   26
   Glucose
   137
   155
   97
   138
   137
   Other labs: PT / PTT / INR:15.3/35.9/1.4, CK / CKMB /
   Troponin-T:61//0.09, ALT / AST:23/28, Alk Phos / T Bili:113/1.6, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:198 IU/L, Ca++:8.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Patient is a 86y/o M with a PMH of biventricular CHF with EF 15%, s/p
   CABG [**2167**] presenting with complete heart block. He is not s/p PMP doing
   well from a cardiac standpoint with ongoing delirium s/p intubation.
   .
   #. Complete Heart Block -  The patient has a history of brady/tachy
   physiology per outpatient cardiologist most recently in slow atrial
   flutter at 3:1 AV block. He has previously declined pacer placement.
   Now presenting with CHB, most likely representing progression of his
   underlying conduction disease.  Patient is s/p permanent pacemaker now
   off all pressor support.  PPM set at a rate of 60 currently.
   - Day [**1-24**] clindamycin
   .
   # Respiratory failure now resolved
 patient was intubated in the
   setting of complete heart block episode.  Major initial barrio to
   extubation was patient
s mental status.  ? PNA given increased sputum
   production.
   - Resp status stable
   - Pt with ongoing sputum production.
   - Sputum culture today.
   .
   #. Acute on chronic Severe Biventricular Systolic Heart Failure - per
   report EF 15-20% with moderate MR and AS. Per outpatient cardiologist
   reports the patient has had progressive volume overload with ascities,
   pleural effusion and distended neck veins despite increase in lasix.
   Echo repeated on admission demonstrates asymmetric septal hypertrophy
   with mild resting left ventricular outflow tract gradient. Severe
   regional systolic dysfunction with akinesis of the inferior and
   inferolateral walls and hypokinesis of the septum. Marked right
   ventricular dilation and dysfunction. Moderate pulmonary hypertension.
   Patient still with evidence of volume overload on exam with pleural
   effusions, elevated JVP.
   - now that extubated will try for gentle diuresis given severe
   dysfunction of right ventricle making patient very preload dependent.
   Was even for the day yesterday
   - Received 20mg IV yesterday with >1L UOP. Received second dose this AM
   - Will need to restart diuresis (60mg lasix + metolazone QOD outpatient
   regimen) on discharge
   .
   #. Pleural Effusion - no clear evidence of PNA on CXR, likely pulmonary
   edema related to severe CHF, no elevated WBC or fever, recently treated
   for PNA with levaquin/azithromycin.  As patient now extubated will
   check PA/Lateral to assess.
   -          CXR seems stable
   -          gentle diuesis as above
   .
   #. CAD - s/p CABG (4Vd in [**2167**]) - continue aspirin 81mg daily, continue
   lipitor 10mg daily. Troponins on admission mildly elevated but flat in
   the setting of renal failure.
   .
   #. CKD - Cr 3.2 on admission, history of CKD with Cr ranging from
   2.5-3. Cr improved today to 2.7.
   - continue to trend
   - renally dose meds
   .
   # Dementia- patient with underlying dementia as per his son.
   -          avoid benzodiazepines
   -          avoid anti-cholinergic medications
   -          Did well with Haldol 0.5mg yesterday.  Continue PRN.
   .
   # Hematuria: Pt with pain at site.  Foley irrigates ok.
   - Monitor foley output.
   - Bladder scan showed only 30mL residual
   - Started tamsulosin 0.4mg PO HS for BPH
   .
   #. HTN
 patient now with hypertension to 140s after being extubated
   - restarted coreg today at half outpatient dose.
   .
   #. Hyperlipidemia - continue statin
   .
   #. FEN
 speech and swallow consult in place, would advance diet as per
   recommendations
   - NG tube if fails speech and swallow.
   .
   #. Access: L art line
 d/c, PIV X3
   .
   #. PPx:  Heparin SC, PPI, bowel regimen
   .
   #. Code:  Full
   .
   #. Dispo:  consider calling out to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2175-1-16**] 08:03 AM
   20 Gauge - [**2175-1-19**] 05:01 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: